US09334290B2
A solution of 5-bromo-2-(ethoxycarbonyl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (1.60 g, 4.21 mmol) and 2,3-dichloro-5,6-dicyanobenzoquinone (2.10 g, 9.26 mmol) in THF (45 mL) was heated at 60° C. for 60 min. The cooled mixture was diluted with EtOAc (about 70 mL), stirred for 15 min, and the precipitate was collected by filtration, washed with EtOAc and dried. The filtrate was concentrated, and the residue was triturated with MeOH, filtered, and the collected precipitate was washed with MeOH. The two solids were combined to give 4-bromo-7-(ethoxycarbonyl)-3-methyl-9H-carbazole-1-carboxylic acid as a pale yellow solid (1.40 g, 88% yield). Mass spectrum m/z 376, 378 (M+H)+.

reactant | 5-bromo-2-(ethoxycarbonyl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 4.21 mmol, 1.60 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1C)C(=O)O)C(=O)OCC | C17H18BrNO4
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 9.26 mmol, 2.10 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | EtOAc | about 70 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-7-(ethoxycarbonyl)-3-methyl-9H-carbazole-1-carboxylic acid | 1.40 g, 88% yield | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)C(=O)OCC)C(=O)O)C | C17H14BrNO4
